US08304577B2
To a solution of t-butyl (2S,3S)-3-methyl-1-((2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethylamino)-1-oxopentan-2-ylcarbamate (80 mg, 0.138 mmol) in dichloromethane (2 mL) was added TFA (1 mL, 12.98 mmol). The reaction mixture was stirred at room temperature for 1 h. The mixture was concentrated and the residue was transferred to a separatory funnel containing saturated aqueous K2CO3 solution. The aqueous layer was extracted with ethyl acetate (2×10 mL). The combined organic layers were dried over MgSO4, filtered and concentrated. 1H NMR indicated that the product was still a TFA salt. The product was dissolved in methanol and passed through a cation exchange resin (washed with methanol and water to remove the acid followed by 2M ammonia in methanol to elute the product) to afford (2S,3S)-2-amino-3-methyl-N-((2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethyl)pentanamide (51 mg, 77% yield) as a colorless solid as the free base: 1H NMR (400 MHz, CDCl3) δ 7.70 (t, J=6.2 Hz, 1H), 7.26-7.33 (m, 2H), 7.19-7.26 (m, 3H), 6.93 (d, J=6.5 Hz, 1H), 6.87 (d, 2H), 6.70 (d, J=8.6 Hz, 2H), 4.89 (ddd, J=9.5, 6.4, 3.5 Hz, 1H), 3.72 (dd, J=8.8, 5.8 Hz, 1H), 3.62 (dd, J=8.8, 6.8 Hz, 1H), 3.45-3.57 (m, 2H), 3.35 (ddd, J=14.0, 5.7, 3.9 Hz, 1H), 3.23 (d, J=3.5 Hz, 1H), 1.93-2.04 (m, 1H), 1.83-1.93 (m, 1H), 1.42 (d, J=7.1 Hz, 3H), 1.23-1.54 (m, 6H), 1.01-1.21 (m, 2H), 0.96 (d, J=6.8 Hz, 3H), 0.94 (d, J=7.3 Hz, 3H), 0.90 (t, J=7.3 Hz, 3H), 0.89 (t, J=7.1 Hz, 3H); LRMS (ESI) m/e 482.5 [(M+H)+, calcd for C29H44N3O3 482.3].

reactant | t-butyl (2S,3S)-3-methyl-1-((2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethylamino)-1-oxopentan-2-ylcarbamate | 0.138 mmol, 80 mg | C[C@H]([C@@H](C(=O)NC[C@H](NC([C@@H](C)C1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC(CCC)C)NC(OC(C)(C)C)=O)CC | C34H51N3O5
reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (2S,3S)-2-amino-3-methyl-N-((2R)-2-(4-(2-methylpentyloxy)phenyl)-2-((S)-2-phenylpropanamido)ethyl)pentanamide | 51 mg, 77% yield | N[C@H](C(=O)NC[C@H](NC([C@@H](C)C1=CC=CC=C1)=O)C1=CC=C(C=C1)OCC(CCC)C)[C@H](CC)C | C29H43N3O3
